US09290468B2
Benzyl 4-azido-5-(benzyloxy)-3-fluoro-2-((2-fluorophenyl)amino)benzoate can be hydrogenated in the presence of appropriate catalyst (such as Pd/C, Pt, Ni). The reaction normally completes within several hours (1-12 h, prefer 3-10 h). 4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxybenzoic acid is obtained after conventional workup.

reactant | Benzyl 4-azido-5-(benzyloxy)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C27H20F2N4O3
catalyst | Pd/C | [Pd] | Pd
catalyst | Ni | [Ni] | Ni
product | 4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxybenzoic acid | NC1=C(C(=C(C(=O)O)C=C1O)NC1=C(C=CC=C1)F)F | C13H10F2N2O3
